US08835420B2
Preparation x44: 6-(3-Hydroxyazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile
6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile (4.27 g, 18.1 mmol), azetidin-3-ol (2.36 g, 18.1 mmol), Xantphos (1.05 g, 1.81 mmol), Pd(OAc)2 (0.406 g, 1.81 mmol) and cesium carbonate (11.8 g, 36.2 mmol) in dioxane (100 mL) were combined in a flask to give an orange suspension. The flask was purged with N2, sealed, and heated to 90° C. for 3 hours. The crude material was diluted with EtOAc (25 mL) and filtered through a pad of Celite. The filtrate was washed with saturated aqueous NH4Cl (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated. The crude product was loaded onto a silica gel cartridge (ISCO®, 120 g) and eluted using an EtOAc/hexane gradient. The product was collected and concentrated in vacuo to afford the title compound as a yellow solid (2.8 g, 67%). ESI-MS m/z [M+H]+ calc'd for C12H12N4O, 229; found 229.

reactant | 6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile | 18.1 mmol, 4.27 g | BrC=1C=C2C(=NC1C#N)C=CN2C | C9H6BrN3
reactant | azetidin-3-ol | 18.1 mmol, 2.36 g | N1CC(C1)O | C3H7NO
reactant | Xantphos | 1.81 mmol, 1.05 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 36.2 mmol, 11.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 1.81 mmol, 0.406 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-(3-Hydroxyazetidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridine-5-carbonitrile | 2.8 g, 67% | OC1CN(C1)C=1C=C2C(=NC1C#N)C=CN2C | C12H12N4O
